US04110468
2-Mercapto-2,4,6-cycloheptatrien-1-one
A solution of 2-chloro-2,4,6-cycloheptatrien-1-one [2.82 g, described by T. Nozoe et al., Proc. Japan Acad., 28, 483 (1952)] in ethanol (20 ml) is added dropwise to a suspension, cooled to -70° C, of sodium sulfhydrate (2.2 g) in ethanol (20 ml). The mixture is stirred at -70° C for two hours, allowed to warm to room temperature and stirred at room temperature for 1 hour. The mixture is filtered and the filtrate is evaporated. The residue is suspended in water, the mixture is acidified to pH2 with 10% hydrochloric acid and extracted with ethyl acetate. The organic extract is dried and evaporated. The residue is dissolved in benzene and subjected to chromatography on silica gel. Th eluates are evaporated to give the title compound, mp 55° C.

reactant | 2-chloro-2,4,6-cycloheptatrien-1-one | 2.82 g | ClC=1C(C=CC=CC1)=O | C7H5ClO
reactant | sodium sulfhydrate | 2.2 g | [Na+].[SH-]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-Mercapto-2,4,6-cycloheptatrien-1-one | SC=1C(C=CC=CC1)=O | C7H6OS
